*Leakage current mesure

V1 1 0 dc Vdd
Vinp in 0 dc 1
Vsel sel 0 dc 1
Vrw rw 0 dc 1
*leakage measurement
xBitcell sel in rw YYYY_cell YYYY_latch 1 0 bitcell
.plot i(V1)