*TEST LOGICAL GATES 

.include gpdk90nm_tt.cir
.include MEM_CELL_PROJECT_V2_NAND_LATCH.cir


*NOT : ok NAND_3IN 
Vdd voltage 0 dc Vdd
Vin1 in1 0 PULSE(0 Vdd 0 1n 1n 10n 20n)
Vin2 in2 0 PULSE(0 Vdd 0 1n 1n 20n 40n)
Vin3 in3 0 PULSE(0 Vdd 0 1n 1n 40n 80n)


*Test 1-input NOT gate
xNOT_test in1 out_not voltage 0 1inNOT
*Test 2-input AND gate
xAND2_test in1 in2 out_and2 voltage 0 2inAND
*Test 3-input AND gate
xAND3_test in1 in2 in3 out_and3 voltage 0 3inAND
*Test 2-input NOR gate
xNOR2_test in1 in2 out_nor2 voltage 0 2inNOR
*Test 3-input NAND gate
xNAND3_test in1 in2 in3 out_nand3 voltage 0 3inNAND

*Test 2-input NAND gate
xNAND2_test in1 in2 out_nand2 voltage 0 2inNAND

*Test SRLATCH gate
xlatch in1 in2 out_latch voltage 0 SR_latch

*test latch
xNAND1 in1 in2 in3 outNAND1 voltage 0 3inNAND
xNAND2 outNAND1 in1 in2 outNAND2 voltage 0 3inNAND


