*WRITING_TIME_TEST

V1 1 0 dc Vdd
Vinp in 0 PULSE(0 Vdd 0ns 0.1ns 0.1ns 10ns 100ns)
Vsel sel 0 PULSE(0 Vdd 0ns 0.1ns 0.1ns 100ns 100ns)
Vrw rw 0 PULSE(0 Vdd 25ns 0.1ns 0.1ns 10ns 20ns)


*Testing read/write time
xBitcell sel in rw YYYY_cell YYYY_latch 1 0 bitcell
.plot v(in) v(sel) v(rw) v(YYYY_cell) v(YYYY_latch)
.plot v(YYYY_cell) v(YYYY_latch)